US05916898
Ammonium formate was added to a vigorously stirred mixture of 4-chloro-3-ethoxycarbonyl-8-nitro-quinoline (5.6 g), ethanol (1000 ml) and 10% palladium on carbon catalyst (2 g). The mixture was stirred at ambient temperature for 1 hour, filtered through a pad of celite and the pad washed with dichloromethane. The combined filtrate and washings were evaporated to dryness. The residue so obtained was purified by flash chromatography on silica using chloroform as eluant to give 3-ethoxycarbonyl-8-amino-quinoline in 58% yield, mp 94-96° C.

reactant | Ammonium formate | C(=O)[O-].[NH4+]
reactant | 4-chloro-3-ethoxycarbonyl-8-nitro-quinoline | 5.6 g | ClC1=C(C=NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H9ClN2O4
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 3-ethoxycarbonyl-8-amino-quinoline | 58% yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1)N | C12H12N2O2
